US08557983B2
tert-butyl trans-4-morpholinocyclohexylcarbamate
A solution of tert-butyl trans-4-aminocyclohexylcarbamate (20.32 g), 1-bromo-2-(2-bromoethoxy)ethane (14.30 mL) and triethylamine (33.0 mL) in N,N-dimethylformamide (200 mL) was stirred for 16 hours at 70° C. The reaction mixture was cooled to room temperature and concentrated and the product was extracted with ethyl acetate. The organic layer was washed with sodium carbonate solution (15% aq.), dried (Na2SO4) and concentrated to give the title compound.

reactant | tert-butyl trans-4-aminocyclohexylcarbamate | 20.32 g | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 14.30 mL | BrCCOCCBr | C4H8Br2O
reactant | triethylamine | 33.0 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | tert-butyl trans-4-morpholinocyclohexylcarbamate | O1CCN(CC1)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C15H28N2O3
